US07005553B2
1-(3-Hydroxy-4-methoxy-2-nitrophenyl)-2-phenyl-ethanone
To a stirred solution of 1-(3-hydroxy4-methoxyphenyl-2-phenyl-ethanone (8.57 g, 35.4 mmol) in dichloromethane (90 mL) at room temperature was added tetrabutylammonium sulphate (0.6 g, 5 mol %) followed by isopropyl nitrate (7.44 g, 70.8 mmol). Sulphuric acid (96%, 8.5 mL) was then added dropwise causing a gently exothermic reaction, and after stirring for forty minutes, the reaction mixture was poured onto water (250 mL). The phases were separated and the aqueous phase was extracted by dichloromethane (30 mL). The combined organic phases were washed with brine and dried over anhydrous sodium sulphate. Filtration and evaporation of the solvent (40° C., water aspirator pressure) afforded a solid residue which was triturated with a small volume of diethylether (20 mL) to afford orange crystals, (6.9 g, 68%) of m.p. 176–177° C., identified by NMR as the ortho-nitrated title product. Concentration of the mother liquors and subsequent trituration with diethyl ether (15 mL) allowed the isolation of a small amount of a minor product, which was recrystallised from a dichloromethane/heptane mixture to give yellowish crystals of m.p. 142–143° C., corresponding (TLC) to a standard of the para-nitrated product, 1-(3-hydroxy-4-methoxy-6-nitrophenyl)-2-phenyl-ethanone (1.22 g, 12%). (80% combined yield, Ortho:Para selectivity, 5.7:1)

reactant | 3-hydroxy4-methoxyphenyl-2-phenyl-ethanone | 35.4 mmol, 8.57 g | OC=1C=C(C=CC1OC)C(CC1=CC=CC=C1)=O | C15H14O3
reactant | tetrabutylammonium sulphate | 0.6 g | S(=O)(=O)([O-])[O-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | isopropyl nitrate | 70.8 mmol, 7.44 g | [N+](=O)(OC(C)C)[O-] | C3H7NO3
reactant | Sulphuric acid | 8.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | 1-(3-Hydroxy-4-methoxy-2-nitrophenyl)-2-phenyl-ethanone | OC=1C(=C(C=CC1OC)C(CC1=CC=CC=C1)=O)[N+](=O)[O-] | C15H13NO5
